US04929618
1.00 g (3.30 mmol) of 4-[(4-chlorophenyl)-2-pyridylmethoxy]piperidine and 0.49 g (3.92 mmol) of 2-bromoethanol were dissolved in 10 ml of acetone, and 0.55 g (3.98 mmol) of potassium carbonate was added to the mixed solution. The mixture was stirred at room temperature for 15 hours. After the reaction, the insolubles were filtered off, and the filtrate was concentrated under reduced pressure. The residue was separated by silica gel column chromatography using a mixture of chloroform and methanol in the volume ratio 20:1 as the eluent. The desired fraction was concentrated under reduced pressure to give 0.64 g (56%) of 2-[4-[(4-chlorophenyl)-2-pyridylmethoxy]-1-piperidyl]ethanol as an oil.

reactant | 4-[(4-chlorophenyl)-2-pyridylmethoxy]piperidine | 3.30 mmol, 1.00 g | ClC1=CC=C(C=C1)C(OC1CCNCC1)C1=NC=CC=C1 | C17H19ClN2O
reactant | 2-bromoethanol | 3.92 mmol, 0.49 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 3.98 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-[4-[(4-chlorophenyl)-2-pyridylmethoxy]-1-piperidyl]ethanol | 0.64 g, 56% | ClC1=CC=C(C=C1)C(OC1CCN(CC1)CCO)C1=NC=CC=C1 | C19H23ClN2O2
